US05703240
4-(5-Trifluoromethyl-tetrazol-1-yl)-phenol
A solution of 1-(4-benzyloxy-phenyl)-5-trifluoromethyl-1H-tetrazole (45.3 mmol) in ethanol (100 ml) and tetrahydrofuran (100 ml) was hydrogenated at room temperature and atmospheric pressure over 10% palladium-carbon catalyst (6 g). After 2 h, the mixture was filtered and the filtrate was evaporated to give the title compound (10.4 g) as a cream solid. T.l.c. (Dichlormethane/ethanol/ammonia(200:8:1)) Rf 0.3.

reactant | 1-(4-benzyloxy-phenyl)-5-trifluoromethyl-1H-tetrazole | 45.3 mmol | C(C1=CC=CC=C1)OC1=CC=C(C=C1)N1N=NN=C1C(F)(F)F | C15H11F3N4O
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium-carbon | 6 g | [C].[Pd]
product | 4-(5-Trifluoromethyl-tetrazol-1-yl)-phenol | 10.4 g | FC(C1=NN=NN1C1=CC=C(C=C1)O)(F)F | C8H5F3N4O
